US07384934B2
8-Trifluoromethyl-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrochloride
Combine 2-(2-nitro-4-trifluoromethyl-phenylamino)-benzo[b]thiophene-3-carbonitrile (5.14 g, 14.1 mmol) and tin(II) chloride (8.05 g, 42.4 mmol) in absolute ethanol and 5N HCl (60 mL each) and reflux the suspension for 1.5 hours. Cool the reaction to ambient temperature. Collect the reaction solid by suction filtration, wash it with cold ethanol, and dry it at 40° C. under reduced pressure to give the title compound (5.083 g). Isolate a second crop of material from the initial filtrate and dry at 40° C. under reduced pressure to give the title compound (0.482 g). Total solid: 5.20 g (94.6%). Mass spectrum (APCI+, m/e): 334 (M+1-HCl); NMR (1H, 300 MHz, DMSO-d6), δ (ppm): 11.71 (s, 1H), 10.32 (s, 1H), 9.32-9.10 (m, 2H), 7.94-7.85 (m, 1H), 7.74-7.65 (m, 1H), 7.60-7.51 (m, 1H), 7.49-7.40 (m, 1H), 7.39-7.27 (m, 2H), 7.23-7.14 (m, 1H).

reactant | 2-(2-nitro-4-trifluoromethyl-phenylamino)-benzo[b]thiophene-3-carbonitrile | 14.1 mmol, 5.14 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)NC1=C(C2=C(S1)C=CC=C2)C#N | C16H8F3N3O2S
reactant | tin(II) chloride | 42.4 mmol, 8.05 g | [Sn](Cl)Cl
solvent | ethanol | C(C)O | C2H6O
solvent | HCl | 5N, 60 mL | Cl | ClH
product | 8-Trifluoromethyl-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrochloride | 5.083 g | Cl.FC(C1=CC2=C(NC=3SC4=C(C3C(=N2)N)C=CC=C4)C=C1)(F)F | InChI=1S/C16H10F3N3S.ClH/c17-16(18,19)8-5-6-10-11(7-8)21-14(20)13-9-3-1-2-4-12(9)23-15(13)22-10;/h1-7,22H,(H2,20,21);1H
